US09145432B2
Synthesis of 1-docosanyl methanesulfonate
247.4 g of behenyl alcohol (1-docosanol) was dissolved in 640 mL of tetrahydrofuran, 116.1 mL of methanesulfonyl chloride was gradually added, and 64.7 mL of triethylamine was then added dropwise under ice cooling over 30 minutes. After stirring for one hour, the mixture was heated at 40° C. and further stirred for 30 minutes. The reaction mixture was poured into 3.5 L of ice water, and the resulting mixture was ultrasonically dispersed for 15 minutes and further stirred at room temperature for 4 hours. The dispersion was filtered under reduced pressure, and a crystal was washed with 2 L of water. The resulting white crystal was stirred in 1.5 L of acetonitrile for one hour, filtered under reduced pressure and then washed with 0.5 L of acetonitrile. The resulting crystal was dried under reduced pressure to obtain 303.4 g of a white crystal.

reactant | behenyl alcohol | 247.4 g | C(CCCCCCCCCCCCCCCCCCCCC)O | C22H46O
reactant | methanesulfonyl chloride | 116.1 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 64.7 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 640 mL | O1CCCC1 | C4H8O
product | 1-docosanyl methanesulfonate | 303.4 g | CS(=O)(=O)OCCCCCCCCCCCCCCCCCCCCCC | C23H48O3S
